US09120749B2
tert-butyl (trans-4-((3-butyryl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)carbamate
Following general procedure D, tert-butyl (trans-4-((6-bromo-3-butyrylquinolin-4-yl)amino)cyclohexyl)carbamate (49 mg, 0.10 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (41 mg, 0.15 mmol) to afford the desired product (36 mg, 64%) as a yellow-brown solid. ESI MS m/z 556 [C30H35ClFN3O4+H]+

reactant | tert-butyl (trans-4-((6-bromo-3-butyrylquinolin-4-yl)amino)cyclohexyl)carbamate | 0.10 mmol, 49 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H32BrN3O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.15 mmol, 41 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | tert-butyl (trans-4-((3-butyryl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)carbamate | 36 mg, 64% | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)F)O)Cl | C30H35ClFN3O4
